US04824996
Tetradecanoic acid 2,2-dimethylhydrazide
690 mg (3 meq) of myristic acid and 486 mg (3 meq) of carbonyl diimidazole are reacted in a minimum volume of tetrahydrofuran at room temperature for 1 hour. Unsym-dimethylhydrazine (0.23 ml, 3 meq) is added and reacted overnight at room temperature. The reaction mixture is evaporated under reduced pressure, dried in vacuo and purified on a silica gel column using CH2Cl2 :CH3OH (5:1). The fractions having R6 0.76 on TLC S.G. CH2Cl2 :CH3OH (5:1) chlorine-peptide spray are combined, evaporated under reduced pressure and dried in vacuo to yield 185 mg of title compound having a m.p. of 63.5°-64.5° C.

reactant | myristic acid | 690 mg, 3 meq | C(CCCCCCCCCCCCC)(=O)O | C14H28O2
reactant | carbonyl diimidazole | 486 mg, 3 meq | C(=O)(C=1NC=CN1)C=1NC=CN1 | C7H6N4O
reactant | Unsym-dimethylhydrazine | 0.23 ml, 3 meq | CN(C)N | C2H8N2
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
product | Tetradecanoic acid 2,2-dimethylhydrazide | 185 mg | CN(NC(CCCCCCCCCCCCC)=O)C | C16H34N2O
